US07470699B2
Preparation of 4-[5-Acetyl-6-(6-methanesulfonyl-pyridin-3-ylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isobutyl ester (Compound A60)
A mixture of 1-[4-(6-methanesulfonyl-pyridin-3-ylamino)-6-(piperidin-4-yloxy)-pyrimidin-5-yl]-ethanone (48 mg, 0.11 mmol), isobutylchloroformate (14.0 μL, 0.11 mmol), and triethylamine (45 μL, 0.34 mmol) in DMF (1.0 mL) was heated under microwave irradiation for 3 minutes at 80° C. The crude mixture was purified by HPLC to provide Compound A60 as a white solid (35 mg, 65%). 1H NMR (CDCl3, 400 MHz) δ 0.97 (d, 6H), 1.82-1.92 (m, 2H), 2.10-2.19 (m, 2H), 2.70 (s, 3H), 3.22 (s, 3H), 3.37 (m, 2H), 3.89-3.96 (m, 5H), 5.59 (h, 1H), 8.10 (d, 1H), 8.49-8.57 (m, 2H), 8.92 (d, 2H). Exact mass calculated for C22H29N5O6S 491.18, found 492.3 (MH+).

reactant | 1-[4-(6-methanesulfonyl-pyridin-3-ylamino)-6-(piperidin-4-yloxy)-pyrimidin-5-yl]-ethanone | 0.11 mmol, 48 mg | CS(=O)(=O)C1=CC=C(C=N1)NC1=NC=NC(=C1C(C)=O)OC1CCNCC1 | C17H21N5O4S
reactant | isobutylchloroformate | 0.11 mmol, 14.0 μL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | triethylamine | 0.34 mmol, 45 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 4-[5-Acetyl-6-(6-methanesulfonyl-pyridin-3-ylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isobutyl ester | 35 mg, 65% | C(C(C)C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C(C)=O)NC=1C=NC(=CC1)S(=O)(=O)C | C22H29N5O6S
